US09328096B2
3-bromo-6-chloro-N-(3-cyano-1-phenyl-1H-pyrazol-5-yl)-2-fluorobenzamide
To a solution of 3-bromo-6-chloro-2-fluorobenzoic acid (1 g, 3.95 mmol) in DCM (20 mL) was added DMF (1 drop) followed by oxalyl chloride (0.7 mL, 7.89 mmol) dropwise. The reaction was stirred at room temperature for 30 minutes before concentrating in vacuo and azeotroping with DCM. The residue was dissolved in MeCN (5 mL) and 5-amino-1-phenyl-1H-pyrazole-3-carbonitrile (655 mg, 3.56 mmol) and triethylamine (0.55 mL, 3.95 mmol) in MeCN (7 mL) were added. The reaction was heated at 120° C. for 1 hour under microwave irradiation. 2M NaOH (aq) (20 mL) was added with vigorous stirring at room temperature for 1.5 hours. The organic layer was separated, washed with 2M HCl (aq) (2×20 mL), dried over magnesium sulfate and concentrated in vacuo. The residue was purified using silica gel column chromatography eluting with 10-30% EtOAc in heptanes to afford the title compound (200 mg, 13%).

reactant | 3-bromo-6-chloro-2-fluorobenzoic acid | 3.95 mmol, 1 g | BrC=1C(=C(C(=O)O)C(=CC1)Cl)F | C7H3BrClFO2
reactant | oxalyl chloride | 7.89 mmol, 0.7 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 5-amino-1-phenyl-1H-pyrazole-3-carbonitrile | 3.56 mmol, 655 mg | NC1=CC(=NN1C1=CC=CC=C1)C#N | C10H8N4
reactant | triethylamine | 3.95 mmol, 0.55 mL | C(C)N(CC)CC | C6H15N
reactant | NaOH | 2M, 20 mL | [OH-].[Na+]
solvent | DCM | 20 mL | C(Cl)Cl | CH2Cl2
catalyst | DMF | 1 drop | CN(C)C=O | C3H7NO
solvent | MeCN | 7 mL | CC#N | C2H3N
product | 3-bromo-6-chloro-N-(3-cyano-1-phenyl-1H-pyrazol-5-yl)-2-fluorobenzamide | 200 mg, 13% | BrC=1C(=C(C(=O)NC2=CC(=NN2C2=CC=CC=C2)C#N)C(=CC1)Cl)F | C17H9BrClFN4O
